US05196610
A solution of 1,1,1,3,3-pentafluoro-2,3-dichloro-2-(4-ethoxyphenyl)propane (29.5 g) in methanol (40 cm3) was added dropwise to a suspension of zinc powder (9.1 g) and zinc chloride (0.45 g) in methanol (80 cm3) whilst the temperature was maintained at 35° C. After the addition was complete the mixture was stirred at the ambient temperature (ca. 23° C.) for 2 hours. After dilution with water and filtering off the zinc, the mixture was extracted with chloroform, the extracts washed with water, dried over anhydrous magnesium sulphate and concentrated by evaporation of the solvent to yield 1,1,1,3,3-pentafluoro-2-(4-ethoxyphenyl)prop-2-ene (19.0 g) as a mobile liquid.

reactant | 1,1,1,3,3-pentafluoro-2,3-dichloro-2-(4-ethoxyphenyl)propane | 29.5 g | FC(C(C(Cl)(F)F)(C1=CC=C(C=C1)OCC)Cl)(F)F | C11H9Cl2F5O
solvent | methanol | 40 cm3 | CO | CH4O
solvent | methanol | 80 cm3 | CO | CH4O
catalyst | zinc | 9.1 g | [Zn] | Zn
catalyst | zinc chloride | 0.45 g | [Cl-].[Zn+2].[Cl-]
product | 1,1,1,3,3-pentafluoro-2-(4-ethoxyphenyl)prop-2-ene | 19.0 g | FC(C(=C(F)F)C1=CC=C(C=C1)OCC)(F)F | C11H9F5O
